USRE029628
2-Amino-3-bromo-N,N-dimethyl-5-(1-hydroxy-ethyl)-benzylamine, m.p. 69-72° C was prepared by reduction of 5-acetyl-2-amino-3-bromo-N,N-dimethyl-benzylamine with sodium borohydride analogous to Example 19.

reactant | 5-acetyl-2-amino-3-bromo-N,N-dimethyl-benzylamine | C(C)(=O)C=1C=C(C(=C(CN(C)C)C1)N)Br | C11H15BrN2O
reactant | sodium borohydride | [BH4-].[Na+]
product | 2-Amino-3-bromo-N,N-dimethyl-5-(1-hydroxy-ethyl)-benzylamine | NC1=C(CN(C)C)C=C(C=C1Br)C(C)O | C11H17BrN2O
